US05428065
6-(Biphenyl-4-yl)hexanoic acid methyl ester (0.67 g, 2.4 mmol) in THF (5 ml) was added dropwise to lithium aluminium hydride (0.2 g, 5.3 mmol) in THF cooled to 0° C. After stirring for 1 day at room temperature, water (1 ml) then 5M sodium hydroxide (1 ml) followed by water (2 ml) were added cautiously followed by stirring at room temperature for 2 hours. The precipitate was filtered off and filtrate was evaporated to give 6-(biphenyl-4-yl)hexanol as a solid (MS: M+ =254).

reactant | 6-(Biphenyl-4-yl)hexanoic acid methyl ester | 2.4 mmol, 0.67 g | COC(CCCCCC1=CC=C(C=C1)C1=CC=CC=C1)=O | C19H22O2
reactant | lithium aluminium hydride | 5.3 mmol, 0.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1 ml | O | H2O
reactant | sodium hydroxide | 5M, 1 ml | [OH-].[Na+]
reactant | water | 2 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 6-(biphenyl-4-yl)hexanol | C1(=CC=C(C=C1)CCCCCCO)C1=CC=CC=C1 | C18H22O
